US05273974
To 100 ml of thionyl chloride was added 26 g of 3-(1-acetylpiperidin-4-yl)propionic acid, obtained in Reference Example 1-(2), in small portions with ice-cooling. The mixture was stirred for 5 minutes, after which the excess thionyl chloride was distilled off and the solid residue was washed with diethyl ether to give 26.4 g of 3-(1-acetylpiperidin-4-yl)propionyl chloride as a pale yellow powder.

reactant | 3-(1-acetylpiperidin-4-yl)propionic acid | 26 g | C(C)(=O)N1CCC(CC1)CCC(=O)O | C10H17NO3
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(1-acetylpiperidin-4-yl)propionyl chloride | 26.4 g | C(C)(=O)N1CCC(CC1)CCC(=O)Cl | C10H16ClNO2
